US07612211B2
D. 2-{2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-phenyl}-propan-2-ol
A mixture of 3,3-dimethyl-3H-benzo[c][1,2]oxaborol-1-ol (66.5 mg, 0.411 mmol), 5-bromo-2-(4-trifluoromethyl-phenoxymethyl)-1H-benzimidazole (76.2 mg, 0.205 mmol), PdCl2(dppf)2.CH2Cl2 (34 mg, 0.041 mmol), and tetrabutylammonium bromide (66 mg 0.205 mmol) in 8 mL of DME and 1.64 mL of Na2CO3 solution (1.0 M) was degassed and purged with argon twice. The mixture was then heated to 90° C. for 12 h. The mixture was then cooled to room temperature, and filtered though a pad of Celite 545. The filtrate was concentrated under reduced pressure to yield a dark brown oil. The residue was purified by chromatography (silica, ethyl acetate:hexanes, 1:1) to afford the title compound as an off-white solid (26.8 mg, 30%). 1H NMR (400 MHz, CD3OD) δ (ppm): 7.81 (dd, 1H, J=8.1 Hz, J=1.1 Hz), 7.63 (m, 2H), 7.56 (m, 1H), 7.45 (m, 1H), 7.34 (td, 1H, J=7.8 Hz, J=1.5 Hz), 7.16-7.26 (m, 4H), 7.05 (dd, 1H, J=7.4 Hz, J=1.7 Hz), 5.44 (s, 2H), 1.32 (s, 6H). Mass Spectrum (LCMS, ESI pos.) Calcd. For C24H21F3N2O2: 427.43 (M+H), Found 427.1.

reactant | 3,3-dimethyl-3H-benzo[c][1,2]oxaborol-1-ol | 0.411 mmol, 66.5 mg | CC1(C2=C(B(O1)O)C=CC=C2)C | C9H11BO2
reactant | 5-bromo-2-(4-trifluoromethyl-phenoxymethyl)-1H-benzimidazole | 0.205 mmol, 76.2 mg | BrC1=CC2=C(NC(=N2)COC2=CC=C(C=C2)C(F)(F)F)C=C1 | C15H10BrF3N2O
reactant | CH2Cl2 | 0.041 mmol, 34 mg | C(Cl)Cl | CH2Cl2
catalyst | tetrabutylammonium bromide | 0.205 mmol, 66 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DME | 8 mL | COCCOC | C4H10O2
solvent | Na2CO3 | 1.0 M, 1.64 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | PdCl2(dppf)2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-{2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-phenyl}-propan-2-ol | 26.8 mg, 30% | FC(C1=CC=C(OCC2=NC3=C(N2)C=CC(=C3)C3=C(C=CC=C3)C(C)(C)O)C=C1)(F)F | C24H21F3N2O2
